US04292449
A metal tube containing 2-oxopentafluoropropanesulfonic acid (23.8 g, 0.10 mol) was cooled below -40° C. and vinylidene fluoroide (1,1-difluoroethene) (13 g, 0.20 mol) was added. The mixture was shaken and warmed to 25° C. where it was kept for 4 hours. Distillation of the liquid product gave 20.4 g (0.07 mol, 70% of 1,1-difluoroethyl 2-oxopentafluoropropanesulfonate, bp 62°-63° C. (50 mm Hg): λmax (CCl4) 5.54 (C=0), 6.96 (SO2O) and 7.5-9 μm (CF, SO2); 1H NMR, δ 2.06 ppm (t J=14.3 Hz) CH3 ; 19F NMR, -58.3 (q J=14.3 Hz, each member t J=7.1 Hz) 2F, OCF2, -75.0 (t J =8.0 Hz) 3F, CF3 and -106.1 ppm (q J= 8.0 Hz, each member t J=7.1 Hz) 2F, CF2SO2.

reactant | 2-oxopentafluoropropanesulfonic acid | 0.10 mol, 23.8 g | O=C(C(S(=O)(=O)O)(F)F)C(F)(F)F | C3HF5O4S
reactant | 1,1-difluoroethene | FC(=C)F | C2H2F2
product | 1,1-difluoroethyl 2-oxopentafluoropropanesulfonate | 0.07 mol, 70% | O=C(C(S(=O)(=O)OC(C)(F)F)(F)F)C(F)(F)F | C5H3F7O4S
